US05635197
(+)-(4aR)-(10bR)-4-methyl-8-(10-oxo-10H-2-pyridazino[6,1-b]-quinazolinylthio)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (100 mg, 0.38 mmol), potassium carbonate (158 mg, 1.14 mmol), 2-chloro-10H-pyridazino[6,1-b]quinazolin-10-one (107 mg, 0.46 mmol) and 1 mL of anhydrous dimethylformamide, fitted with a reflux condenser, and the stirred mixture was heated at 60°, under nitrogen, for 18 h. The mixture was cooled, diluted with ethyl acetate (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (0-10% methanol/ethyl acetate eluent gradient) to give 103 mg (62%) of the title compound as an amorphous foam. mp 110-114°. FDMS: m/e=456. α[D]589 =+54.77 (c=0.49, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.38 mmol, 100 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)S)C)=O | C15H19NOS
reactant | potassium carbonate | 1.14 mmol, 158 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-10H-pyridazino[6,1-b]quinazolin-10-one | 0.46 mmol, 107 mg | ClC1=NN2C(=NC=3C=CC=CC3C2=O)C=C1 | C11H6ClN3O
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(10-oxo-10H-2-pyridazino[6,1-b]-quinazolinylthio)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 103 mg, 62% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC3=NN1C(=NC=2C=CC=CC2C1=O)C=C3)C)=O | C26H24N4O2S
